US07759367B2
5-Bromo-2-methoxypyridine
2,5-Dibromopyridine (200 g) and 28% sodium methoxide methanol solution (1535 g) were heated under reflux for 30 minutes, followed by cooling to room temperature. The mixture was partitioned between water (1.6 L) and tert-butylmethyl ether (1.6 L). The resulting organic layer was washed with brine (1 L) for 3 times, and then dried over anhydrous magnesium sulfate overnight. The dried organic layer was evaporated at 65° C., to give 160 g (96%) of the title compound as a brown oil.

reactant | 2,5-Dibromopyridine | 200 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | sodium methoxide methanol | 1535 g | CO.C[O-].[Na+]
product | 5-Bromo-2-methoxypyridine | 160 g, 96% | BrC=1C=CC(=NC1)OC | C6H6BrNO
